US07592492B2
Step 1: 4,6,8a-Trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone
2,4-Dimethyl-2-cyclohexen-1-one (40 g, 0.32 mmol), Aluminium trichloride (10.7 g, 0.08 mmol), Isoprene (326 g, 4.8 mol), Toluene (500 ml)

reactant | 2,4-Dimethyl-2-cyclohexen-1-one | 0.32 mmol, 40 g | CC=1C(CCC(C1)C)=O | C8H12O
reactant | Aluminium trichloride | 0.08 mmol, 10.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Isoprene | 4.8 mol, 326 g | C=CC(C)=C | C5H8
reactant | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6,8a-Trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone | CC1CCC(C2(CC=C(CC12)C)C)=O | C13H20O
